US08633319B2
Intermediate 17: 1,1-Dimethylethyl (3S)-3-({[7-(1-ethyl-1H-pyrazol-4-yl)-1,6-naphthyridin-5-yl]oxy}methyl)-3-fluoro-1-piperidinecarboxylate
A mixture of 1,1-dimethylethyl (3S)-3-{[(7-chloro-1,6-naphthyridin-5-yl)oxy]methyl}-3-fluoro-1-piperidinecarboxylate (1.1 g, 2.78 mmol), 1-ethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.679 g, 3.06 mmol) and caesium carbonate (2.263 g, 6.95 mmol) in 1,4-dioxane (16 ml) and water (3 ml) was degassed with nitrogen before adding tetrakis(triphenylphosphine)palladium (0) (0.096 g, 0.083 mmol). This was heated under reflux for 18 h. The reaction was partitioned between ethyl acetate and aqueous ammonium chloride. The aqueous was re-extracted with ethyl acetate and the combined organics were washed with brine, passed through a hydrophobic frit and concentrated in vacuo to give crude product. This was dissolved in DCM and purified through silica (20 g) eluting with a gradient of ethyl acetate in DCM. The product eluted in neat ethyl acetate. Appropriate fractions were combined and concentrated in vacuo to yield the title compound as a pinkish cream foam (1.10 g).

reactant | 1,1-dimethylethyl (3S)-3-{[(7-chloro-1,6-naphthyridin-5-yl)oxy]methyl}-3-fluoro-1-piperidinecarboxylate | 2.78 mmol, 1.1 g | ClC1=NC(=C2C=CC=NC2=C1)OC[C@]1(CN(CCC1)C(=O)OC(C)(C)C)F | C19H23ClFN3O3
reactant | 1-ethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 3.06 mmol, 0.679 g | C(C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C11H19BN2O2
reactant | caesium carbonate | 6.95 mmol, 2.263 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 16 ml | O1CCOCC1 | C4H8O2
solvent | water | 3 ml | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.083 mmol, 0.096 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1,1-Dimethylethyl (3S)-3-({[7-(1-ethyl-1H-pyrazol-4-yl)-1,6-naphthyridin-5-yl]oxy}methyl)-3-fluoro-1-piperidinecarboxylate | 1.10 g | C(C)N1N=CC(=C1)C1=NC(=C2C=CC=NC2=C1)OC[C@]1(CN(CCC1)C(=O)OC(C)(C)C)F | C24H30FN5O3
